US07531553B2
Preparation XV: (R)-3-(1-Methyl-pyrrolidin-2-ylmethoxy)-4-trifluoromethyl-phenylamine
A solution of (R)-N-[3-(1-methyl-pyrrolidin-2-ylmethoxy)-4-trifluoromethyl-phenyl]-acetamide (0.49 g, 1.56 mmol) in 18 mL EtOH was added 11 mL concentrated HCl. The reaction was heated, in a sealed tube, at 70° C. for 6 h, then at 100° C. for 2 h. The reaction was cooled, concentrated to aqueous, basified with 6 N NaOH, and extracted 4 times with CH2Cl2. The combined organic layers were dried over Na2SO4, filtered, and concentrated in vacuo to yield the title compound as a tan solid.

reactant | (R)-N-[3-(1-methyl-pyrrolidin-2-ylmethoxy)-4-trifluoromethyl-phenyl]-acetamide | 1.56 mmol, 0.49 g | CN1[C@H](CCC1)COC=1C=C(C=CC1C(F)(F)F)NC(C)=O | C15H19F3N2O2
reactant | HCl | 11 mL | Cl | ClH
solvent | EtOH | 18 mL | CCO | C2H6O
product | (R)-3-(1-Methyl-pyrrolidin-2-ylmethoxy)-4-trifluoromethyl-phenylamine | CN1[C@H](CCC1)COC=1C=C(C=CC1C(F)(F)F)N | C13H17F3N2O
